US07906546B2
680 mg (1.27 mmol) of (RS,SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester in 10 mL of DMF were treated with 83 mg (1.90 mmol, 1.5 eq) of NaH (55% in oil) portionwise within 30 min at 0° C. 217 mg (1.52 mmol, 1.2 eq) of methyliodide were added and the reaction was stirred an additional 30 min, and then poured into water and extracted with EtOAc. The crude material was dissolved in 10 mL of CH2Cl2, and 1 mL of TFA was added at RT. Aqueous Na2CO3 was added until pH=7 was reached, and the organic phases were dried on Na2SO4, filtered and evaporated. Column chromatography on silica gel with heptane/EtOAc 1:1 yielded 420 mg (65%) of (RS,SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N,N-dimethyl-acetamide as a white solid, MS: 449 (MH+).

reactant | (RS,SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester | 1.27 mmol, 680 mg | C(C)(C)(C)OC(=O)N1C2=CC=C(C=C2C=2CCC(CC12)C(C(NC)=O)(F)S(=O)(=O)C1=CC=CC=C1)Cl | C26H28ClFN2O5S
reactant | NaH | 1.90 mmol, 83 mg, 1.5 eq | [H-].[Na+]
reactant | methyliodide | 1.52 mmol, 217 mg, 1.2 eq | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (RS,SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N,N-dimethyl-acetamide | 420 mg, 65% | C1(=CC=CC=C1)S(=O)(=O)C(C(=O)N(C)C)(F)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C22H22ClFN2O3S
